US07842694B2
5-(Azetidin-1-ylcarbonyl)-2-chloropyridine
DMF (2 drops) was added to a solution of 6-chloronicotinic acid (1.00 g, 6.35 mmol) and oxalyl chloride (0.67 mL, 7.62 mmol) in DCM (20 mL) and 2M hydrogen chloride in ether (3.15 mL, 6.35 mmol). The mixture was stirred at RT for 4 hours and the DCM and excess oxalyl chloride evaporated in vacuo. The residual acid chloride was dissolved in DCM (10 mL) and added to a mixture of azetidine hydrochloride (0.66 g, 6.99 mmol) and triethylamine (2.14 mL, 13.97 mmol) in DCM (10 mL) then stirred at RT for 24 hours. The DCM was evaporated in vacuo, and the residue partitioned between ethyl acetate (100 mL) and 1M citric acid (50 mL). The ethyl acetate layer was washed sequentially with saturated aqueous sodium hydrogen carbonate (50 mL) and brine (50 mL), dried (MgSO4), and the solvent removed in vacuo to give a residue which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (0.73 g). 1H NMR δ (CDCl3) 2.43 (quin, 2H), 4.2-4.4 (brm, 4H), 7.42 (d, 1H), 7.97 (d, 1H), 8.63 (s, 1H). m/z 197 (M+H)+

reactant | 6-chloronicotinic acid | 6.35 mmol, 1.00 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | oxalyl chloride | 7.62 mmol, 0.67 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ether | 6.35 mmol, 3.15 mL | CCOCC | C4H10O
reactant | azetidine hydrochloride | 6.99 mmol, 0.66 g | Cl.N1CCC1
reactant | triethylamine | 13.97 mmol, 2.14 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | hydrogen chloride | 2M | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(Azetidin-1-ylcarbonyl)-2-chloropyridine | 0.73 g | N1(CCC1)C(=O)C=1C=CC(=NC1)Cl | C9H9ClN2O
